US04405735
7,7,9,9-Tetramethyl-2,2-diethyl-3,8-bis-(2,3-dihydroxypropyl)-1-oxa-3,8-diaza-spiro[4.5]decan-4-one
13.4 g (1/20 mole) of 7,7,9,9-tetramethyl-2,2-diethyl-1-oxa-3,8-diaza-spiro[4.5]decan-4-one, 3.7 g (1/20 mole) of glycidol and 1 drop of concentrated HCl in 60 ml of propanol were stirred for 10 hours at 80° C. A further 3.7 g of glycidol, 0.2 g of tricaprylmethylammonium chloride and 0.3 g of 50% strength NaOH were then added, after which the mixture was stirred for a further 15 hours at 80° C. The mixture was then filtered and the filtrate evaporated to dryness.

reactant | 7,7,9,9-tetramethyl-2,2-diethyl-1-oxa-3,8-diaza-spiro[4.5]decan-4-one | 20 mole, 13.4 g | CC1(CC2(C(NC(O2)(CC)CC)=O)CC(N1)(C)C)C | C15H28N2O2
reactant | glycidol | 20 mole, 3.7 g | C1C(O1)CO | C3H6O2
reactant | glycidol | 3.7 g | C1C(O1)CO | C3H6O2
reactant | NaOH | [OH-].[Na+]
catalyst | HCl | 1 drop | Cl | ClH
solvent | propanol | 60 ml | C(CC)O | C3H8O
catalyst | tricaprylmethylammonium chloride | 0.2 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 7,7,9,9-Tetramethyl-2,2-diethyl-3,8-bis-(2,3-dihydroxypropyl)-1-oxa-3,8-diaza-spiro[4.5]decan-4-one | CC1(CC2(C(N(C(O2)(CC)CC)CC(CO)O)=O)CC(N1CC(CO)O)(C)C)C | C21H40N2O6
